US07511033B2
3-(3-Bromo-phenyl)-3-oxo-propionic acid tert-butyl ester
Prepared from hexamethyldisilizane (16.5 mL, 79 mmol) and n-BuLi (48.4 mL, 77 mmol) in TBME (40 mL), then commercially available ethyl 3-bromobenzoate (7.55 g, 33 mmol) and tert-butyl acetate (4.86 mL, 36 mmol) in TBME (80 mL) according to the general procedure III. Obtained as a light yellow oil (9.934 g, 101%; 95% purity).

reactant | hexamethyldisilizane | 79 mmol, 16.5 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-BuLi | 77 mmol, 48.4 mL | [Li]CCCC
reactant | ethyl 3-bromobenzoate | 33 mmol, 7.55 g | BrC=1C=C(C(=O)OCC)C=CC1 | C9H9BrO2
reactant | tert-butyl acetate | 36 mmol, 4.86 mL | C(C)(=O)OC(C)(C)C | C6H12O2
solvent | TBME | 40 mL | CC(C)(C)OC | C5H12O
solvent | TBME | 80 mL | CC(C)(C)OC | C5H12O
product | 3-(3-Bromo-phenyl)-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)Br)=O | C13H15BrO3
